US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(6-methoxy-pyridin-2-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXIV)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 6-Methoxy-pyridine-2-carbaldehyde (25.7 mg, 0.187 mmol), and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to produce 11.03 mg (19%) of the title compound. (300 MHz, DMSO-d6) 13.30 (s, 1H), 8.01 (s, 1H), 7.89 (t, J=15 Hz, 7.5 Hz, 1H), 7.79 (m, 2H), 7.30 (d, J=9 Hz, 1H), 7.25 (s, 1H), 6.90 (d, J=8 Hz, 1H), 6.44 (s, 1H), 6.37 (s, 1H), 5.17 (t, J=17 Hz, J=9 Hz, 1H), 4.06 (s, 3H), 2.90 (s, 1H), 2.82 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.39 (d, J=8 Hz, 1H). MS=411 (M+H), HPLC: 2.53 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 6-Methoxy-pyridine-2-carbaldehyde | 0.187 mmol, 25.7 mg | COC1=CC=CC(=N1)C=O | C7H7NO2
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(6-methoxy-pyridin-2-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 11.03 mg, 19% | ClC=1C(=C2C(=NC1)NC(=N2)C2=NC(=CC=C2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H19ClN6O2
